### PR TITLE
[Merged by Bors] - feat(MeasureTheory/MeasurableSpace/Basic): add map_comap_eq_of_surjective and measurable_comap_iff_right

### PR DESCRIPTION
**Pull request by teorth**
[We have nine map_comap_eq_of_surjective lemmas](https://loogle.lean-lang.org/?q=%22map_comap_eq_self_of_surjective%22) for `Submonoid`, `Subgroup`, `Subring`, etc., but were lacking one for `MeasurableSpace`.  This PR adds the analogous lemma; as an application it also establishes a dual version of `measurable_comap_iff` involving composition on the right rather than the left.

---

Note: I have no applications in mind for this PR, so it can be considered low priority.

Discussed on Zulip [here](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60map_comap_eq_of_surjective.60.20for.20.60MeasurableSpace.60).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 1]
```diff
@@ -152,6 +152,12 @@ theorem comap_map_le : (m.map f).comap f ≤ m :=
 theorem le_map_comap : m ≤ (m.comap g).map g :=
   (gc_comap_map g).le_u_l _
 
+theorem map_comap_eq_of_surjective (hg : Function.Surjective g) : (m.comap g).map g = m := by
+  apply le_antisymm _ le_map_comap
+  intro S hS
```
Comment (plp127) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean]: We don't want to be using `apply` where one of the `_` holes becomes a new goal, see [#mathlib4 > linter requests @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/linter.20requests/near/599106799)
While we're here, let's also merge in the next line `intro S hS` as well
```suggestion
  refine le_antisymm (fun S hS => ?_) le_map_comap
```

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 2]
```diff
@@ -200,6 +206,12 @@ lemma measurable_comap_iff {mα : MeasurableSpace α} {mγ : MeasurableSpace γ}
     {f : α → β} {g : β → γ} : Measurable[mα, mγ.comap g] f ↔ Measurable (g ∘ f) := by
   simp [measurable_iff_comap_le]
 
+lemma measurable_comap_iff_right {mβ : MeasurableSpace β} [MeasurableSpace γ] {g : α → β}
+    {f : β → γ} (hg : Function.Surjective g) : Measurable f ↔ Measurable[mβ.comap g] (f ∘ g) := by
+  simp only [measurable_iff_comap_le, ← comap_comp]
+  refine ⟨ comap_mono, fun h ↦ ?_ ⟩
+  simpa only [map_comap_eq_of_surjective hg] using map_mono (f := g) h
```
Comment (plp127) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean]:
```suggestion
  rw [measurable_iff_le_map, measurable_iff_le_map, ← map_comp, map_comap_eq_of_surjective hg]
```

**Comment by teorth** [comment]
-awaiting-author

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 3]
```diff
@@ -200,6 +205,10 @@ lemma measurable_comap_iff {mα : MeasurableSpace α} {mγ : MeasurableSpace γ}
     {f : α → β} {g : β → γ} : Measurable[mα, mγ.comap g] f ↔ Measurable (g ∘ f) := by
   simp [measurable_iff_comap_le]
 
+lemma measurable_comap_iff_right {mβ : MeasurableSpace β} [MeasurableSpace γ] {g : α → β}
```
Comment (plp127) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean]: Should we take `[MeasurableSpace γ]` as a not an instance argument too, like what `measurable_comap_iff` is doing four lines up?

Comment (teorth) [reply Mathlib/MeasureTheory/MeasurableSpace/Basic.lean]: Good point, at this low level it would be common to use a non-instance measurable structure.  Changed as per the suggestion.

**Review by jkandel1 — COMMENTED** [review]
@teorth
Non-expert review from the API/readability side: I looked through the two added declarations, MeasurableSpace.map_comap_eq_of_surjective and measurable_comap_iff_right. The first seems to fit the existing map_comap_eq_of_surjective pattern described in the PR, and the second reads naturally as the right-composition analogue of measurable_comap_iff.

Since the PR notes that there is no current application in mind, would it be worth adding a short docstring or example for measurable_comap_iff_right, or is the nearby placement next to measurable_comap_iff considered enough?

**Comment by teorth** [comment]
> Since the PR notes that there is no current application in mind, would it be worth adding a short docstring or example for measurable_comap_iff_right, or is the nearby placement next to measurable_comap_iff considered enough?

Given that `measurable_comap_iff` currently has no docstring, I'm comfortable with `measurable_comap_iff_right` also having no docstring.  The Mathlib convention generally seems to be to reserve docstrings for methods that one anticipates to be frequently used, as opposed to supplying docstrings for even the most minor of theorems.

**Comment by jkandel1** [comment]
@teorth Thanks, that makes sense. Useful to know the convention here.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
